US06596734B1
2-(3,5-dibromo-4-methoxy-phenyl)-N-[2-(3-nitro-phenyl)-ethyl]-acetamide.
To a suspension of 3-nitro-phenethylamine oxalate (1.792 g, 0.007 mol) in methylene chloride (45 mL), 1 N NaOH (45 mL) was added. It was stirred at room temperature to get a clear solution. A solution of 3,5-dibromo-4-methoxyphenyl acetyl chloride (0.0072 mol) in methylene chloride was added. Stirring was continued overnight and the completion of the reaction was monitored by thin layer chromatography. The reaction mixture was washed with 1N HCl and 1N NaOH, extracted with methylene chloride. The combined extracts were dried over anhydrous sodium sulfate and concentrated. The solid obtained was crystallized from ethyl acetate-hexanes mixture. Yield 2.159 g, 65%.

reactant | 3-nitro-phenethylamine oxalate | 0.007 mol, 1.792 g | C(C(=O)O)(=O)O.[N+](=O)([O-])C=1C=C(CCN)C=CC1
reactant | 3,5-dibromo-4-methoxyphenyl acetyl chloride | 0.0072 mol | BrC=1C=C(C=C(C1OC)Br)CC(=O)Cl | C9H7Br2ClO2
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N, 45 mL | [OH-].[Na+]
product | 2-(3,5-dibromo-4-methoxy-phenyl)-N-[2-(3-nitro-phenyl)-ethyl]-acetamide | BrC=1C=C(C=C(C1OC)Br)CC(=O)NCCC1=CC(=CC=C1)[N+](=O)[O-] | C17H16Br2N2O4
